US06291452B1
A mixture of N-[(3RS)-2,3-dihydro-5-(2-fluorophenyl)-1-(2-methoxyphenacyl)-9-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]-N′-[3-(tetrazol-5-yl)phenyl]urea (200 mg) and 1N boron tribromide in methylene chloride (3.87 ml) was stirred at 0° C. under nitrogen stream for 4 hours and allowed to stand in a refrigerator overnight. Ethyl acetate and water were added to the reaction mixture. The separated organic layer was washed with water and brine, and then dried over magnesium sulfate. The solvent was evaporated in vacuo to afford a pale brown powder, which was washed with diisopropyl ether and collected by filtration to give N-[(3RS)-2,3-dihydro-5-(2-fluorophenyl)-1-(2-hydroxyphenacyl)-9-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]-N′-[3-(tetrazol-5-yl)phenyl]urea (202.0 mg) as a crystalline powder.

reactant | N-[(3RS)-2,3-dihydro-5-(2-fluorophenyl)-1-(2-methoxyphenacyl)-9-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]-N′-[3-(tetrazol-5-yl)phenyl]urea | 200 mg | FC1=C(C=CC=C1)C1=NC(C(N(C2=C1C=CC=C2C)CC(=O)C2=C(C=CC=C2)OC)=O)NC(=O)NC2=CC(=CC=C2)C2=NN=NN2 | C33H27FN8O4
reactant | boron tribromide | 1N | B(Br)(Br)Br | BBr3
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | methylene chloride | 3.87 ml | C(Cl)Cl | CH2Cl2
product | N-[(3RS)-2,3-dihydro-5-(2-fluorophenyl)-1-(2-hydroxyphenacyl)-9-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]-N′-[3-(tetrazol-5-yl)phenyl]urea | 202.0 mg | FC1=C(C=CC=C1)C1=NC(C(N(C2=C1C=CC=C2C)CC(=O)C2=C(C=CC=C2)O)=O)NC(=O)NC2=CC(=CC=C2)C2=NN=NN2 | C32H25FN8O4
